US06211215B1
In substantially the same manner as in Working Example 47, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with ethyl 4-chloromethyl-2-oxazole-propionate to give ethyl 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-oxazolepropionate as an oily product. The yield was 70%.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | ethyl 4-chloromethyl-2-oxazole-propionate | ClCC=1N=C(OC1)CCC(=O)OCC | C9H12ClNO3
product | ethyl 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-oxazolepropionate | yield was 70% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2)CCC(=O)OCC)C=C1 | C21H25N3O4
